US08669271B2
4-{5-[4-(Propane-2-sulfonyl)-piperazin-1-yl]-2,3-dihydro-furo[2,3-c]pyridin-2-yl}-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared by treatment of 4-(5-piperazin-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester with isopropylsulfonyl chloride in dichloromethane in the presence of triethylamine. LC (method 10): tR=1.48 min; Mass spectrum (ESI+): m/z=495 [M+H]+.

reactant | 4-(5-piperazin-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2CCNCC2)O1 | C21H32N4O3
reactant | isopropylsulfonyl chloride | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{5-[4-(Propane-2-sulfonyl)-piperazin-1-yl]-2,3-dihydro-furo[2,3-c]pyridin-2-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2CCN(CC2)S(=O)(=O)C(C)C)O1 | C24H38N4O5S
